* Two-stage triode feedback compressor based loosely on the Altec 436c
* https://funkwerkes.com/web/wp-content/techdocs/Altec_Lansing/Altec-436C-CompAmp.pdf

* Supply
VCC vp 0 DC 250

* Input
* input:vi
V1 vi 0 SIN(0 1 500)
Cin vi vg1 0.1u
Rg1 vg1 0 470k

* Stage 1: gain stage. Sidechain feedback sums into the cathode bias
Rk1 vk1 0 2.2k
Ck1 vk1 0 10u
Rp1 vp vpl1 100k
X1 vpl1 vg1 vk1 12AX7_DEMPWOLF ; P G C

* Interstage coupling
Cc12 vpl1 vg2 0.047u
Rg2 vg2 0 220k

* Stage 2: driver stage
Rk2 vk2 0 1.5k
Ck2 vk2 0 10u
Rp2 vp vpl2 47k
X2 vpl2 vg2 vk2 12AX7_DEMPWOLF ; P G C

* Output
Cout vpl2 vo 0.1u
RL vo 0 100k

* Sidechain
Csc vo vsc 0.1u
D1 vsc venvA D1N914
Ratt venvA venv 10k
Cenv venv 0 1u
Rrel venv 0 330k
Rfb venv vk1 47k

* Diode model
.model D1N914 D (IS=2.52E-9 N=1.752)

* Triode model
.model 12AX7_DEMPWOLF TRIODE(GK=2.242e-3 MU=103.2 GAMMA=1.26 CK=3.40 GG=6.177e-4 XI=1.314 CG=9.901 IG0=8.025e-8 CPG=2.4p)
.lib 12AX7.lib

Escale1 vi_scaled 0 value = {V(vi)*0.2} ; netlist_skip
Escale2 vo_scaled 0 value = {V(vo)*0.004} ; netlist_skip

.tran 0 20m 0 1.0u
.wav "vin.wav" 32 48k V(vi_scaled)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
